US05780465
A solution of 33.6 g of triethylphosphonoacetate in 20 mL of tetrahydrofuran was added dropwise with stirring to a slurry of 6.0 g of 60 percent sodium hydride (in mineral oil) in 100 ml of dry tetrahydrofuran. The mixture was allowed to react for 30 min and then a solution of 20.1 g of 4-ethylbenzaldehyde in 100 mL of tetrahydrofuran was added with stirring and the mixture was heated to reflux. After 2 hours the mixture was cooled and water was added. The resulting mixture was extracted with ethyl acetate and the extract was dried over sodium sulfate and concentrated by evaporation under reduced pressure to obtain ethyl 4-ethylcinnamate as the residue.

reactant | sodium hydride | 6.0 g | [H-].[Na+]
reactant | 4-ethylbenzaldehyde | 20.1 g | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | water | O | H2O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl 4-ethylcinnamate | C(C)C1=CC=C(C=CC(=O)OCC)C=C1 | C13H16O2
